US04851526
N-Ethyl-4-(1H-imidazol-1-yl)benzenamine
In a manner similar to Preparation 8, react 4-(1H-imidazol-1-yl)benzenamine with acetaldehyde to obtain the title compound.

reactant | 4-(1H-imidazol-1-yl)benzenamine | N1(C=NC=C1)C1=CC=C(C=C1)N | C9H9N3
reactant | acetaldehyde | C(C)=O | C2H4O
product | N-Ethyl-4-(1H-imidazol-1-yl)benzenamine | C(C)NC1=CC=C(C=C1)N1C=NC=C1 | C11H13N3
